US07351728B2
2-Methyl-2-[4-(2-{5-methyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazol-4-yl}-ethoxy)-phenoxy]-propionic acid
A sample of 2-methyl-2-[4-(2-{5-methyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazol-4-yl}-ethoxy)-phenoxy]-propionic acid ethyl ester (55 mg, 0.103 mmol) was dissolved in 10 mL of EtOH with 3 mL of 5 N NaOH. This mixture was allowed to stir at 60° C. for 1 h. The mixture was cooled to room temperature and then acidified to pH 2 by the dropwise addition of 5 N HCl. This acidic mixture was diliuted with 10 mL of H2O and then extracted with CH2Cl2 (2×25 mL). The organic layers were combined, dried over NaCl, and solvent removed in vacuo which provided 49 mg (94%) of desired acid: 1H NMR (400 MHz, CDCl3) δ 8.32 (d, 2 H), 7.95 (d, 2 H), 6.82 (d, 2 H), 6.74 (d, 2 H), 4.35 (t, 2 H), 3.25 (t, 2 H), 2.50 (s, 3 H), 1.44 (s, 6 H), 1.32 (s, 12 H); MS (EI) 508.0 (M+H)+.

reactant | 2-methyl-2-[4-(2-{5-methyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazol-4-yl}-ethoxy)-phenoxy]-propionic acid ethyl ester | 0.103 mmol, 55 mg | C(C)OC(C(C)(OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C30H38BNO7
reactant | HCl | 5 N | Cl | ClH
reactant | H2O | 10 mL | O | H2O
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | NaOH | 5 N, 3 mL | [OH-].[Na+]
product | 2-Methyl-2-[4-(2-{5-methyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazol-4-yl}-ethoxy)-phenoxy]-propionic acid | 49 mg, 94% | CC(C(=O)O)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C28H34BNO7
